US06255333B1
1-(2,6-Dichloro-4-trifluoromethylphenyl)4-ethenyl-3-phenyl-pyrazole
A solution of 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodo-3-phenylpyrazole (1 g) in dimethylformamide (12 ml) was added tetrakis(triphenylphosphine)palladium(0) (0.07 g) and the mixture stirred at room temperature for 10 minutes. Vinyltri-n-butyltin (1.8 ml) was added and the mixture heated at 70° C. for 6 hours and then left at room temperature overnight. The reaction mixture was evaporated and then partitioned between water (50 ml) and dichloromethane (50 ml). The organic layer was separated, dried (MgSO4) and evaporated. The residue was purified by column chromatography on silica gel eluted with hexane containing increasing amounts of ethyl acetate. Appropriate fractions were combined and evaporated and their residue was further purified by column chromatography on silica gel eluted with hexane containing amounts of ether. Combination and evaporation of appropriate fractions gave the title compound as a yellow oil.

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodo-3-phenylpyrazole | 1 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)I)C1=CC=CC=C1 | C16H8Cl2F3IN2
reactant | Vinyltri-n-butyltin | 1.8 ml | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.07 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2,6-Dichloro-4-trifluoromethylphenyl)4-ethenyl-3-phenyl-pyrazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)C=C)C1=CC=CC=C1 | C18H11Cl2F3N2
